US06441017B1
Step A: 7-Hydroxy-1-iodonaphthalene
To a solution of 8-amino-2-naphthol (10.0 g, 62.80 mmol) in THF (50 mL) and 3 N aqueous HCl (100 mL) at 0° C. was added a solution of NaNO2 (4.76 g, 69.08 mmol) in H2O (20 mL). The resulting mixture was stirred for 15 min, then a solution of potassium iodide (41.8 g, 251.8 mmol) in H2O (30 mL) was added. After 40 min, the reaction was diluted with EtOAc and filtered. The filtrate was extracted with EtOAc (2×), the combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo in the presence of silica gel. The powder was chromatographed on silica gel, eluting with hexane—10% EtOAc, to yield the above-titled compound.

reactant | 8-amino-2-naphthol | 62.80 mmol, 10.0 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | NaNO2 | 69.08 mmol, 4.76 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 251.8 mmol, 41.8 g | [I-].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | HCl | 3 N, 100 mL | Cl | ClH
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Hydroxy-1-iodonaphthalene | OC1=CC=C2C=CC=C(C2=C1)I | C10H7IO
